US04885298
A solution of 5.5 g sodium ethylate in 40 ml absolute ethanol is added to a suspension of 29.5 g 3-hydroxymethylidene-6-methyl-thioflavanone in 400 ml absolute ethanol. After stirring for one day at room temperature the suspension is poured into a mixture of water and chloroform containing acetic acid. The organic layer is separated and the aqueous layer is extracted with chloroform. The combined organic extracts are washed with water, dried over magnesium sulfate, filtered and evaporated. The residue is recrystallised from a mixture of light petroleum and chloroform. Pure 3-ethoxymethylidene-6-methyl-thioflavanone is obtained as yellow crystals; m.p. 140°-142° C.

reactant | sodium ethylate | 5.5 g | CC[O-].[Na+]
reactant | 3-hydroxymethylidene-6-methyl-thioflavanone | 29.5 g | OC=C1C(OC2=CC=C(C=C2C1=S)C)C1=CC=CC=C1 | C17H14O2S
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-ethoxymethylidene-6-methyl-thioflavanone | C(C)OC=C1C(OC2=CC=C(C=C2C1=S)C)C1=CC=CC=C1 | C19H18O2S
